US05455273
800 ml of an 8% solution of methylamine in toluene are added, whilst cooling with ice, to 100 g of 4-bromobenzaldehyde and 300 g of molecular sieve (3 Angstroms). The mixture is stirred overnight at ambient temperature, suction filtered to remove the molecular sieve and the solvent is evaporated off. The residue is dissolved in 1.4 litres of ice cold methanol and 48 g of sodium borohydride are added in batches whilst cooling with ice. Then the mixture is stirred for 30 minutes at 0° C., for one hour at 10° C. and for two hours at ambient temperature, then evaporated to dryness, the residue is taken up in ice water, acidified with half concentrated hydrochloric acid and extracted twice with ether. The ether is discarded, the aqueous phase is made alkaline with concentrated sodium hydroxide solution whilst cooling and then extracted three times with ether. The organic phase is washed with water and saturated saline solution, dried and evaporated down. 96.8 g of N-methyl-4-bromobenzylamine are obtained in the form of a colourless oil.

reactant | methylamine | CN | CH5N
reactant | 4-bromobenzaldehyde | 100 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-methyl-4-bromobenzylamine | 96.8 g | CNCC1=CC=C(C=C1)Br | C8H10BrN
